US04399134
Raney nickel (1.5 kg) was added to a solution of 214 g of 2-methyl-3-methylthio-4-morpholino-5-fluoro-7-bromoindole in 3 l of ethanol and the mixture was refluxed for 3 hours. After completion of reaction the reaction mixture was cooled and Raney nickel was removed by filtration. Concentration of the filtrate gave 101 g of 2-methyl-4-morpholino-5-fluoroindole.

reactant | 2-methyl-3-methylthio-4-morpholino-5-fluoro-7-bromoindole | 214 g | CC=1NC2=C(C=C(C(=C2C1SC)N1CCOCC1)F)Br | C14H16BrFN2OS
catalyst | Raney nickel | 1.5 kg | [Ni] | Ni
solvent | ethanol | 3 l | C(C)O | C2H6O
product | 2-methyl-4-morpholino-5-fluoroindole | 101 g | CC=1NC2=CC=C(C(=C2C1)N1CCOCC1)F | C13H15FN2O
